US06806371B2
83.0 g (0.49 mol) of 4-nitro-2,3-dimethylpyridine N-oxide and 90 g (1.54 mol) of NaCl were admixed with 1350 ml of CH3CN, 180 ml of aq. HCl (36%) and 16.6 g of benzyltributylammonium chloride, and the resulting suspension was boiled under reflux with stirring for 12 h. The resulting reaction mixture was adjusted to pH=9 using 350 ml of 20% NaOH, wherefor the existing precipitate largely dissolved. The organic phase was separated off, water was added to the aqueous phase until the precipitate had completely dissolved, and it was subsequently extracted using dichloromethane. The organic phases were combined and the solvent was removed under reduced pressure. 76.6 g (98.5%) of 4-chloro-2,3-dimethylpyridine N-oxide were obtained.

reactant | 4-nitro-2,3-dimethylpyridine N-oxide | 0.49 mol, 83.0 g | [N+](=O)([O-])C1=C(C(=[N+](C=C1)[O-])C)C | C7H8N2O3
reactant | NaCl | 1.54 mol, 90 g | [Na+].[Cl-]
reactant | HCl | 180 ml | Cl | ClH
reactant | NaOH | 350 ml | [OH-].[Na+]
catalyst | benzyltributylammonium chloride | 16.6 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | CH3CN | 1350 ml | CC#N | C2H3N
product | 4-chloro-2,3-dimethylpyridine N-oxide | 76.6 g, 98.5% | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
